US08471005B2
2-[4-(5-Nitro-1H-benzimidazol-2-ylmethyl)-piperazin-1-yl]-ethanol (1.085 g, 2.587 mmol) [Goker, H.; Kus, C.; Abbasoglu, U. Arch. Pharm. (Weinheim, Ger.) 1995, 328, 425]was dissolved in Methanol (20.0 mL) and 5% Platinum on Carbon, Sulfided (0.5%) (162 mg, 0.0415 mmol) and 3.00 M of Hydrogen Chloride in Methanol (8.0 mL, 24 mmol) were added. The mixture was shaken under an atmosphere of Hydrogen (25 psi) for 2 h. The mixture was filtered through Celite with MeOH and additional 3.00 M of Hydrogen Chloride in Methanol (3 mL, 9 mmol) was added to the filtrate prior to conc. in vacuo to afford 2-[4-(5-Amino-1H-benzimidazol-2-ylmethyl)-piperazin-1-yl]-ethanol tetrahydrochloride as a foam (0.90 g, 83%). 1H-NMR (DMSO-d6): 10.41 (br s, 1H), 7.72 (d, 1H, J=8.6 Hz), 7.52 (s, 1H), 7.25 (d, 1H, J=8.6 Hz), 4.20 (s, 2H), 3.78 (t, 2H, J=4.8 Hz), 3.53 (m, 2H), 3.19 (m, 4H), 3.09 (m, 2H), 2.85 (m, 2H).

reactant | 2-[4-(5-Nitro-1H-benzimidazol-2-ylmethyl)-piperazin-1-yl]-ethanol | 2.587 mmol, 1.085 g | [N+](=O)([O-])C1=CC2=C(NC(=N2)CN2CCN(CC2)CCO)C=C1 | C14H19N5O3
reactant | Hydrogen Chloride | 3.00 M | Cl | ClH
reactant | Hydrogen Chloride | 3.00 M | Cl | ClH
solvent | Methanol | 20.0 mL | CO | CH4O
catalyst | Platinum on Carbon | [Pt] | Pt
solvent | Methanol | 9 mmol, 3 mL | CO | CH4O
solvent | Methanol | 24 mmol, 8.0 mL | CO | CH4O
product | 2-[4-(5-Amino-1H-benzimidazol-2-ylmethyl)-piperazin-1-yl]-ethanol tetrahydrochloride | 0.90 g, 83% | Cl.Cl.Cl.Cl.NC1=CC2=C(NC(=N2)CN2CCN(CC2)CCO)C=C1 | InChI=1S/C14H21N5O.4ClH/c15-11-1-2-12-13(9-11)17-14(16-12)10-19-5-3-18(4-6-19)7-8-20;;;;/h1-2,9,20H,3-8,10,15H2,(H,16,17);4*1H
